US07547680B2
3-[N-(4-Benzyloxybutyl)-N-methylamino]benzonitrile
3-(4-Benzyloxybutylamino)benzonitrile (0.22 g) and potassium carbonate (0.21 g) were suspended in N,N-dimethylformamide (5 mL). To the reaction mixture was added methyl iodide (0.16 g), and the mixture was stirred at 50° C. for 16 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The organic layer was washed with a saturated aqueous sodium hydrogen carbonate solution and brine successively and dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1/1) to give the title compound (0.22 g).

reactant | 3-(4-Benzyloxybutylamino)benzonitrile | 0.22 g | C(C1=CC=CC=C1)OCCCCNC=1C=C(C#N)C=CC1 | C18H20N2O
reactant | potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.16 g | CI | CH3I
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-[N-(4-Benzyloxybutyl)-N-methylamino]benzonitrile | 0.22 g | C(C1=CC=CC=C1)OCCCCN(C)C=1C=C(C#N)C=CC1 | C19H22N2O
